US05395934
5Chloro-4-[N-(3-chloropropyl)-amino]-2-methyl-3(2H)-pyridazinone
0.48 g (2.2 mmoles) of 5-chloro-4-[N-(3-hydroxypropyl)-amino]-2-methyl-3(2H)-pyridazinone is dissolved in ml of dichloromethane, and 2.1 ml (28.8 mmoles) of thionyl chloride are dropped to the solution. Then it is boiled for 3 hours under stirring and reflux cooling. The solvent is evaporated and the crude product thus obtained is triturated with ether. Thus 0.38 g (73%) of the desired compound is obtained. M.p.: 91°-92° C.

reactant | 5-chloro-4-[N-(3-hydroxypropyl)-amino]-2-methyl-3(2H)-pyridazinone | 2.2 mmoles, 0.48 g | ClC1=C(C(N(N=C1)C)=O)NCCCO | C8H12ClN3O2
reactant | dichloromethane | ml | ClCCl | CH2Cl2
reactant | thionyl chloride | 28.8 mmoles, 2.1 ml | S(=O)(Cl)Cl | Cl2OS
product | 5Chloro-4-[N-(3-chloropropyl)-amino]-2-methyl-3(2H)-pyridazinone | 0.38 g, 73% | ClC1=C(C(N(N=C1)C)=O)NCCCCl | C8H11Cl2N3O
